US05801287
1b) Preparation of 1,4-bis[bis(4-dimethylaminophenyl)phosphino]butane
6.1 g (10 mmol) of 1,4-bis[bis(4-dimethylaminophenyl)phosphinyl]butane and 9.3 g (50 mmol) of tri-n-butylamine are initially charged in 30 ml of o-xylene in an argon atmosphere. 5.75 g (50 mmol) of methyldichlorosilane are slowly added dropwise with the reaction mixture warming up to 50° C. It is subsequently heated to 100° C. and stirred for 4 hours, then heated to 145° C. and stirred for 16 hours. Cooling the clear solution results in formation of colorless crystals which are filtered off and washed with 10 ml of degassed o-xylene. Drying in a high vacuum gives 5.5 g of colorless crystals, corresponding to a yield of 95%.

reactant | 1,4-bis[bis(4-dimethylaminophenyl)phosphinyl]butane | 10 mmol, 6.1 g | CN(C1=CC=C(C=C1)P(=O)(CCCCP(=O)(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C | C36H48N4O2P2
reactant | tri-n-butylamine | 50 mmol, 9.3 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | methyldichlorosilane | 50 mmol, 5.75 g | C[SiH](Cl)Cl | CH4Cl2Si
solvent | o-xylene | 30 ml | CC=1C=CC=CC1C | C8H10
product | 1,4-bis[bis(4-dimethylaminophenyl)phosphino]butane | 5.5 g, yield of 95% | CN(C1=CC=C(C=C1)P(CCCCP(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C | C36H48N4P2
